US06521630B1
Benzoylene urea (4.0 g, 24.7 mmol), Triton B (40 wt % in methanol) (11.0 mL, 24.7 mmol), water (80 mL) and methanol (400 mL) were combined at ambient temperature and stirred vigorously for 15 minutes. (until all the solids had gone into solution). To this colorless solution, acrolein (1.7 mL, 24.7 mmol) in methanol (20 mL) was added dropwise over 5 minutes. to give a yellow solution. The reaction was then heated to 55 ° C. and stirred for 2 hours. and then at room temperature for approximately 16 hours. The yellow solution was concentrated to give a yellow oil which was taken up in ethyl acetate (25 mL) and water (50 mL). The aqueous layer was extracted again with ethyl acetate (25 mL). The organic layers were combined, washed with IN HCl (20 mL), water (20 mL), saturated sodium bicarbonate solution (20 mL) and brine (20 mL), the organic layer was dried over magnesium sulfate and concentrated to give 3-[2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]propionaldehyde as a yellow foam (3.2 g, 59%) which was used without further purification. The NMR data showed a purity of 70%. NMR CDCl3 δ 9.85 (s, 1H), 8.10-8.06 (m, 1H), 7.63-7.57 (m, 1H), 7.24-7.19 (m, 1H), 7.13-7.07 (m, 1H), 4.44-4.40 (m, 2H), 2.85 (dt, 2H, J1,2=2 Hz, J1,3=7 Hz); MS=219 (p+1).

reactant | Benzoylene urea | 24.7 mmol, 4.0 g | C1=CC=C2C(=C1)C(=O)NC(=O)N2 | C8H6N2O2
reactant | acrolein | 24.7 mmol, 1.7 mL | C(=O)C=C | C3H4O
solvent | methanol | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | methanol | 400 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
product | 3-[2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]propionaldehyde | 3.2 g, 59% | O=C1NC2=CC=CC=C2C(N1CCC=O)=O | C11H10N2O3
